US07129232B2
The crude product of N-(5-amino-1-methyl-1H-pyrazol-4-yl)formamide (13.33 g) was dissolved in N,N-dimethylformamide (130 ml). To the solution were added trityl chloride (29.2 g), triethylamine (66.3 ml) and 4-dimethylaminopyridine (465 mg), and the mixture was stirred at 60° C. for 5 hours. To the reaction mixture was added water, and the whole mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give a white solid. The solid was triturated with ethyl acetate/diisopropyl ether (1:1) to give N-[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]formamide (19.18 g). The NMR spectrum of this compound indicates the existence of its rotamer.

reactant | N-(5-amino-1-methyl-1H-pyrazol-4-yl)formamide | 13.33 g | NC1=C(C=NN1C)NC=O | C5H8N4O
reactant | trityl chloride | 29.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 66.3 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 130 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 465 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]formamide | 19.18 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC=O | C24H22N4O
